US08247403B2
(2) 9-(piperidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A solution of tert-butyl 9-(piperidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (130 mg, 0.391 mmol) and 4N hydrogen chloride-ethyl acetate (4 ml) in ethyl acetate (1 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (93.6 mg, 78.7%) as a solid.

reactant | tert-butyl 9-(piperidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.391 mmol, 130 mg | N1(CCCCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H28N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(piperidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 93.6 mg, 78.7% | Cl.Cl.N1(CCCCC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C14H20N2O.2ClH/c1-2-8-16(9-3-1)13-6-4-5-12-11-15-7-10-17-14(12)13;;/h4-6,15H,1-3,7-11H2;2*1H
